US04486425
191 mg of this benzhydryl 7-[2-(2-chloroacetamidothiazol-4-yl)-2-ethoxyiminoacetamido]-3-methoxymethyl-3-cephem-4-carboxylate were then treated with 40 mg of thiourea, as described in Preparation 4, to give 117 mg of benzhydryl 7-[2-(2-aminothiazol-4-yl)-2-ethoxyiminoacetamido]-3-methoxymethyl-3-cephem-4-carboxylate, in the form of a pale pink powder, which was then treated with 1.5 ml of trifluoroacetic acid in a mixture of anisole and methylene chloride. When diisopropyl ether was added to the mixture, a precipitate was obtained and this was collected by filtration, to give 90 mg of 7-[2-(2-aminothiazol-4-yl)-2-ethoxyiminoacetamido]-3-methoxymethyl-3-cephem-4-carboxylic acid trifluoroacetate.

reactant | benzhydryl 7-[2-(2-chloroacetamidothiazol-4-yl)-2-ethoxyiminoacetamido]-3-methoxymethyl-3-cephem-4-carboxylate | 191 mg | ClCC(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)COC)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOCC | C31H30ClN5O7S2
reactant | thiourea | 40 mg | NC(=S)N | CH4N2S
product | benzhydryl 7-[2-(2-aminothiazol-4-yl)-2-ethoxyiminoacetamido]-3-methoxymethyl-3-cephem-4-carboxylate | 117 mg | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)COC)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOCC | C29H29N5O6S2
